US06380218B1
1-[2-(4-Fluorophenoxy)-3-pyridinyl]-3-hydroxy-3-phenyl-1-propanone
A solution of 0.114 mL (111 mg, 1.10 mmol) of diisopropylamine in 8 mL of tetrahydrofuran was cooled to −78° C. and treated dropwise with 0.440 mL (1.10 mmol) of a solution of 2.5 M n-butyllithium in hexane. After stirring for 30 min, a solution of 231 mg (1.00 mmol) 1-[2-(4-Fluorophenoxy)-3-pyridinyl]-ethanone in 2 mL of tetrahydrofuran was added dropwise. After stirring for 30 min, 0.112 mL (1.07 mmol) of benzaldehyde was added dropwise, and stirring was continued for 1 h. The mixture was quenched by the addition of 2 mL of saturated aqueous NH4Cl solution and was allowed to warm to rt. The mixture was partitioned between 50 mL of saturated aqueous NH4Cl solution and 300 mL of EtOAc. The separated organic layer was washed with 50 mL of saturated aqueous sodium hydrogencarbonate solution, 50 mL of brine, dried (Na2SO4), and evaporated to 259 mg of an oil. Purification by flash chromatography using a 40% EtOAc-hexane eluant afforded 211 mg (63% yield) of the title compound as an oil; 1H NMR (CDCl3) d 3.23 (1H, br s), 3.54-3.56 (2H, m), 5.34-5.37 (1H, m), 7.07-7.41 (10H, m), 8.21-8.26 (2H, m); APCI MS (m/e) 338 (M++1).

reactant | diisopropylamine | 1.10 mmol, 0.114 mL, 111 mg | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1-[2-(4-Fluorophenoxy)-3-pyridinyl]-ethanone | 1.00 mmol, 231 mg | FC1=CC=C(OC2=NC=CC=C2C(C)=O)C=C1 | C13H10FNO2
reactant | benzaldehyde | 1.07 mmol, 0.112 mL | C(C1=CC=CC=C1)=O | C7H6O
solvent | tetrahydrofuran | 8 mL | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 1-[2-(4-Fluorophenoxy)-3-pyridinyl]-3-hydroxy-3-phenyl-1-propanone | 211 mg, 63% yield | FC1=CC=C(OC2=NC=CC=C2C(CC(C2=CC=CC=C2)O)=O)C=C1 | C20H16FNO3
